US08466282B2
6-methoxy-1-(4-methoxybutyl)-N-(2-methylpropyl)-N-{(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl}-1H-benzimidazole-2-carboxamide dihydrochloride
tert-Butyl (3S,5R)-3-{{{6-methoxy-1-(4-methoxybutyl)-1H-benzimidazol-2-yl}carbonyl}(2-methylpropyl)amino}-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (82 mg) was dissolved in 2M hydrogen chloride-ethyl acetate (3 ml), and the mixture was stirred at room temperature for 1 hr and concentrated to give the object product (78 mg).

reactant | tert-Butyl (3S,5R)-3-{{{6-methoxy-1-(4-methoxybutyl)-1H-benzimidazol-2-yl}carbonyl}(2-methylpropyl)amino}-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 82 mg | COC=1C=CC2=C(N(C(=N2)C(=O)N([C@@H]2CN(C[C@@H](C2)C(=O)N2CCOCC2)C(=O)OC(C)(C)C)CC(C)C)CCCCOC)C1 | C33H51N5O7
reactant | hydrogen chloride-ethyl acetate | 2M, 3 ml | C(C)(=O)OCC.Cl
product | 6-methoxy-1-(4-methoxybutyl)-N-(2-methylpropyl)-N-{(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl}-1H-benzimidazole-2-carboxamide dihydrochloride | 78 mg | Cl.Cl.COC=1C=CC2=C(N(C(=N2)C(=O)N([C@@H]2CNC[C@@H](C2)C(=O)N2CCOCC2)CC(C)C)CCCCOC)C1 | InChI=1S/C28H43N5O5.2ClH/c1-20(2)19-33(22-15-21(17-29-18-22)27(34)31-10-13-38-14-11-31)28(35)26-30-24-8-7-23(37-4)16-25(24)32(26)9-5-6-12-36-3;;/h7-8,16,20-22,29H,5-6,9-15,17-19H2,1-4H3;2*1H/t21-,22+;;/m1../s1
